US07935835B2
(4a) 2-Phenyl[1.3]dioxan-5-ol adamantane-1-carboxylate
1.00 g (5.55 mmol) of 2-phenyl[1.3]dioxan-5-ol, 1.16 ml (8.32 mmol) of triethylamine and 68 mg (0.56 mmol) of 4-dimethylaminopyridine were dissolved in 20 ml of dichloromethane, and 1.28 g (6.10 mmol) of 1-adamantanecarbonyl chloride was added thereto with stirring under ice-cooling, followed by stirring for 30 minutes at the same temperature, and then further for 15 hours at room temperature. Dichloromethane was distilled off under reduced pressure, and to the residue was added aqueous sodium hydrogencarbonate and the mixture was extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The residue was subjected to silica gel column chromatography (solvent; hexane:ethyl acetate=9:1) to give 1.52 g of the title compound as a pale yellow powder (yield: 80%).

reactant | 2-phenyl[1.3]dioxan-5-ol | 5.55 mmol, 1.00 g | C1(=CC=CC=C1)C1OCC(CO1)O | C10H12O3
reactant | triethylamine | 8.32 mmol, 1.16 ml | C(C)N(CC)CC | C6H15N
reactant | 1-adamantanecarbonyl chloride | 6.10 mmol, 1.28 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
catalyst | 4-dimethylaminopyridine | 0.56 mmol, 68 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-Phenyl[1.3]dioxan-5-ol adamantane-1-carboxylate | 1.52 g, yield: 80% | C12(CC3CC(CC(C1)C3)C2)C(=O)OC2COC(OC2)C2=CC=CC=C2 | C21H26O4
